US08445501B2
trans-4-[5-(2-Methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-(cyclopropanecarbonyl-amino)-cyclohexyl]-amide
Starting from trans-4-[5-(2-methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A185) and cyclopropanecarbonyl chloride the title compound was obtained as colorless solid.

reactant | trans-4-[5-(2-methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCOC | C23H27N5O5
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | trans-4-[5-(2-Methoxy-ethoxy)-benzo[1,3]dioxol-4-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-(cyclopropanecarbonyl-amino)-cyclohexyl]-amide | C1(CC1)C(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCOC | C27H31N5O6
